### PR TITLE
chore(RingTheory/PowerSeries): simplify coeff_inv_aux

### PR DESCRIPTION
**Pull request by cameronfreer**
This replaces the hand-written `Finset.sum_nbij'` in `coeff_inv_aux` with `simp_rw` + `simp`, via `Finsupp.antidiagonal_single`, the same rewrite that `PowerSeries.coeff_mul` already uses.

:robot: Golfing target found by GPT Pro 5.6 Sol, initial version of code written by Opus 5 high, refined by GPT 5.6 Sol xhigh, then again by Opus 5 high following @felixpernegger's review suggestion.

### CODE REVIEW

**Comment by felixpernegger** [comment]
LLM-generated

File: Mathlib/RingTheory/PowerSeries/Inverse.lean [hunk 1]
```diff
@@ -62,23 +62,9 @@ theorem coeff_inv_aux (n : ℕ) (a : R) (φ : R⟦X⟧) :
...
-    · aesop
-    rw [if_pos H, if_pos]
-    · rfl
-    refine ⟨?_, fun hh ↦ H.not_ge ?_⟩
-    · rintro ⟨⟩
-      simpa [Finsupp.single_eq_same] using le_of_lt H
-    · simpa [Finsupp.single_eq_same] using hh ()
+  simp only [Finsupp.antidiagonal_single, Finset.sum_map, Function.Embedding.coe_prodMap,
+    Function.Embedding.coeFn_mk, Prod.map_fst, Prod.map_snd, lt_iff_le_not_ge,
+    Finsupp.single_le_single, coeff]
```
Comment (felixpernegger) [inline Mathlib/RingTheory/PowerSeries/Inverse.lean]:
```suggestion
  simp_rw [lt_iff_le_not_ge, coeff]
  simp
```
Note this cant just be one `simp` (or at least i didnt manage to make it work)

Comment (cameronfreer) [reply Mathlib/RingTheory/PowerSeries/Inverse.lean]: Thanks, that is nicer. (I had earlier also tried and failed to make it be a single `simp`.)

**Comment by cameronfreer** [comment]
Upon looking more, the `split_if`s and `simp only [Finsupp.single_eq_zero]` aren't needed either, since the terminal `simp` handles the `n = 0` branch and unfolds `coeff`.

(note that some further approaches didn't work: folding the `rw` into the `simp_rw` leads to `MvPowerSeries.coeff_inv_aux` possibly looping, and moving `lt_iff_le_not_ge` into the `simp` hits the max recursion depth.)

**Review by felixpernegger — APPROVED** [review]
